data/oMe_Silver.jsonl
{"reaction_id": "NR-313_1-C#N_2-C(C)(C)C_3-CCC_4-c2ccccc2_5-Br","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c(Br)c1I"],"products_smiles": ["c1(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c(Br)c1c2c(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c2(Br)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c(Br)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c(Br)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c(Br)c1[Cu](I)c2c(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c2(Br)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c(Br)c1c2c(C#N)c(C(C)(C)C)c(CCC)c(c2ccccc2)c2(Br)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
{"reaction_id": "NR-324_1-C1CCCCC1_2-CC_3-CC_4-OC_5-C","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["C1CCCCC1C(CC)=C(CC)C(OC)C","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["C1CCCCC1C(CC)=C(CC)C(OC)(C)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "C1CCCCC1C(CC)=C(CC)[C](OC)C","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "C1CCCCC1C(CC)=C(CC)C(OC)(C)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
